US05843973
Trans-4-t-butyldimethylsilyloxymethyl-1-hydroxymethycyclohexane
In 250 ml of dry dimethylformamide were dissolved 10.0 g of trans-1,4-dihydroxymethylcyclohexane and 14.5 ml of triethylamine, and a solution of 10.24 g of t-butyldimethylsilyl chloride dissolved in 50 ml of dry dimethylformamide was added dropwise thereto with stirring under ice-cooling, and the resulting mixture was stirred under ice-cooling for 1 hour. To the reaction mixture were added 200 ml of ethyl acetate, the precipitated triethylamine hydrochloride was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (2:1) as an eluting solvent to obtain 11.9 g of the desired compound as a colorless oil.

reactant | trans-1,4-dihydroxymethylcyclohexane | 10.0 g | OC[C@@H]1CC[C@H](CC1)CO | C8H16O2
reactant | triethylamine | 14.5 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl chloride | 10.24 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Trans-4-t-butyldimethylsilyloxymethyl-1-hydroxymethycyclohexane | 11.9 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC[C@H](CC1)CO | C14H30O2Si
